US07034039B2
Tert-butyl[4-butoxy-6-(2-furyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.28 g, 0.6 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml). The solution was stirred at room temperature for 2 h. The reaction was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate-diisopropyl ether to give 3-(aminomethyl)-4-butoxy-6-(2-furyl)-2-isobutyl-1(2H)-isoquinolinone hydrochloride (0.22 g, 91.7%) as crystals.

reactant | Tert-butyl[4-butoxy-6-(2-furyl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.6 mmol, 0.28 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1OC=CC1)=O)CC(C)C)=O | C27H36N2O5
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-4-butoxy-6-(2-furyl)-2-isobutyl-1(2H)-isoquinolinone hydrochloride | 0.22 g, 91.7% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1OC=CC1)=O)CC(C)C | InChI=1S/C22H28N2O3.ClH/c1-4-5-10-27-21-18-12-16(20-7-6-11-26-20)8-9-17(18)22(25)24(14-15(2)3)19(21)13-23;/h6-9,11-12,15H,4-5,10,13-14,23H2,1-3H3;1H
